US08030305B2
3-(2,3-Dihydro-benzofuran-5-ylmethyl)-6-(5-morpholin-4-ylmethyl-furan-2-yl)-[1,2, 4]triazolo[4,3-b]pyridazine
5-[3-(2,3-Dihydro-benzofuran-5-ylmethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]-furan-2-carbaldehyde (21.6 mg, 0.06 mmol), morpholine (6.5 μL, 0.07 mmol) and AcOH (2 drops) were combined in DCM (1 mL). To this was added sodium triacetoxyborohydride (19 mg, 0.09 mmol) and the reaction was stirred at rt for 2 hours. The reaction was concentrated in vacuo followed by purification by HPLC (5-65% CH3CN over 35 min) resulting in the title compound (5.9 mg, 27%) as a solid. 1H-NMR (CD3OD/CDCl3): δ 8.23-8.21 (1H, d, J=9.6 Hz), 7.81-7.78 (1H, d, J=9.8 Hz), 7.42-7.41 (1H, d, J=3.5 Hz), 7.22 (1H, s), 7.17-7.15 (1H, d, J=9.6 Hz), 6.99-6.98 (1H, d, J=3.5 Hz), 6.67-6.65 (1H, d, J=8.3 Hz), 4.57 (2H, s), 4.45-4.38 (4H, m), 3.94 (4H, br s), 3.40-3.33 (4H, m), 3.17-3.13 (2H, t, J=8.8 Hz). ESI-MS (m/z): Calcd. For C23H23N5O3: 417.18; found: 418.3 (M+H).

reactant | 5-[3-(2,3-Dihydro-benzofuran-5-ylmethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]-furan-2-carbaldehyde | 0.06 mmol, 21.6 mg | O1CCC2=C1C=CC(=C2)CC2=NN=C1N2N=C(C=C1)C1=CC=C(O1)C=O | C19H14N4O3
reactant | morpholine | 0.07 mmol, 6.5 μL | N1CCOCC1 | C4H9NO
reactant | sodium triacetoxyborohydride | 0.09 mmol, 19 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
catalyst | AcOH | 2 drops | CC(=O)O | C2H4O2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 3-(2,3-Dihydro-benzofuran-5-ylmethyl)-6-(5-morpholin-4-ylmethyl-furan-2-yl)-[1,2, 4]triazolo[4,3-b]pyridazine | 5.9 mg, 27% | O1CCC2=C1C=CC(=C2)CC2=NN=C1N2N=C(C=C1)C=1OC(=CC1)CN1CCOCC1 | C23H23N5O3
